US04022769
17β,19-Dihydroxy-1α,7α-dimethyl-4-androsten-3-one diacetate is dissolved under nitrogen in a sodium methoxide methanol solution at 0° C. and stirred at room temperature for 2 hours. The solution is poured onto water and the solid collected by filtration. Recrystallization from acetonitrile yields the desired 17β,19-dihydroxy-1α,7α-dimethyl-4-androsten-3-one.

reactant | 17β,19-Dihydroxy-1α,7α-dimethyl-4-androsten-3-one diacetate | C(C)(=O)O.C(C)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C
solvent | sodium methoxide methanol | CO.C[O-].[Na+]
product | 17β,19-dihydroxy-1α,7α-dimethyl-4-androsten-3-one | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O)C | C21H32O3
